US08754114B2
N-[3-(7-{1-[1-(Cyclopropylacetyl)piperidin-4-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea
A mixture of N-{3-[7-(1-piperidin-4-yl-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea (15.0 mg, 0.0310 mmol) (prepared by the procedure for Example 30, step 5), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (15.1 mg, 0.0340 mmol), cyclopropylacetic acid (4.65 mg, 0.0464 mmol, Lancaster, Cat. No. L09616) and N,N-diisopropylethylamine (30.0 μL, 0.172 mmol) in DMSO (0.5 mL) was stirred at for 3 h. The mixture was purified by RP-HPLC (pH=10) to afford the desired product. LCMS (M+H)+: m/z=567.3.

reactant | N-{3-[7-(1-piperidin-4-yl-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea | 0.0310 mmol, 15.0 mg | N1CCC(CC1)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C23H23F3N8O
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.0340 mmol, 15.1 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | cyclopropylacetic acid | C1(CC1)CC(=O)O | C5H8O2
reactant | N,N-diisopropylethylamine | 0.172 mmol, 30.0 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
product | N-[3-(7-{1-[1-(Cyclopropylacetyl)piperidin-4-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | C1(CC1)CC(=O)N1CCC(CC1)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C28H29F3N8O2
